US08022062B2
5-(3-Chloropropionyl)-3,3-dimethyl-1,3-dihydro-indol-2-one:
Under nitrogen atmosphere, add chloropropionyl chloride (1.54 mL, 16.13 mmol) to a mixture of 3,3-dimethyl-1,3-dihydro-indol-2-one (2.0 g, 12.41 mmol) and aluminium trichloride (10.26 g, 76.92 mmol) in carbon disulphide (70 mL). Heat under reflux for 3 h then allow to cool. Decant off the solvent and replace it carefully with ice/water (200 mL). Allow the resultant suspension to stir for 20 min before filtering off the product and washing with water (80 mL). Dry in vacuo to obtain the desired intermediate as a pale brown solid (3.08 g, 99%).

reactant | chloropropionyl chloride | 16.13 mmol, 1.54 mL | ClCCC(=O)Cl | C3H4Cl2O
reactant | 3,3-dimethyl-1,3-dihydro-indol-2-one | 12.41 mmol, 2.0 g | CC1(C(NC2=CC=CC=C12)=O)C | C10H11NO
reactant | aluminium trichloride | 76.92 mmol, 10.26 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | carbon disulphide | 70 mL | C(=S)=S | CS2
product | 5-(3-Chloropropionyl)-3,3-dimethyl-1,3-dihydro-indol-2-one | 3.08 g, 99% | ClCCC(=O)C=1C=C2C(C(NC2=CC1)=O)(C)C | C13H14ClNO2
